US20010047105A1
Step B: [2-Oxo-3-(3-trifluoromethyl-phenyl)-propyl]-phosphonic acid dimethyl ester.
To a solution of dimethyl methylphosphonate (9.4 g, 75.8 mmol) in toluene (80 mL) at −78° C. was slowly added n-BuLi (2.5M in hexanes, 28 mL, 70 mmol). The reaction mixture was stirred for 1 h and a solution of N-methoxy-N-methyl-2-(3-trifluoromethyl-phenyl)-acetamide (14.39 g) in toluene (50 mL) was slowly added. The reaction mixture was stirred for 2.5 h and AcOH (40 mL) was added. The reaction mixture was warmed to room temperature and water was added. The organic layer was washed with water followed by brine. The organic solution was dried (MgSO4), filtered and concentrated in vacuo. Medium pressure chromatography (CH2Cl2 to 2% MeOH in CH2Cl2) provided the title compound of Preparation 3 (9.37 g). 1H NMR (CDCl3) δ7.52 (m, 1H), 7.44 (m, 2H), 7.37 (m, 1H), 3.96 (s, 2H), 3.87 (s, 3), 3.76 (s, 3H), 3.12 (d, 2H).

reactant | dimethyl methylphosphonate | 75.8 mmol, 9.4 g | CP(OC)(OC)=O | C3H9O3P
reactant | n-BuLi | 70 mmol, 2.5M, 28 mL | [Li]CCCC
reactant | N-methoxy-N-methyl-2-(3-trifluoromethyl-phenyl)-acetamide | 14.39 g | CON(C(CC1=CC(=CC=C1)C(F)(F)F)=O)C | C11H12F3NO2
reactant | AcOH | 40 mL | CC(=O)O | C2H4O2
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | [2-Oxo-3-(3-trifluoromethyl-phenyl)-propyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(CC1=CC(=CC=C1)C(F)(F)F)=O | C12H14F3O4P
